US04935522
Ethyl 2-(4-acetoxyphenoxy)propionate (5.01 g, 19.9 mmol) is hydrolyzed by refluxing for 2 hours at 80° C. with ethanol (40 mL) and concentrated HCl (36%, 2 drops). The reaction product is concentrated under reduced pressure to obtain ethyl 2-(4-hydroxyphenoxy)propionate (3.8 g) (yield 93%), 1NMR (CHCl3) delta 1.25 (t, J=7.0 Hz, 3H), 1.62 (d, J=6.8 Hz, 3H), 4.21 (q, J=7.0 Hz, 2H), 4.65 (q, J=6.8 Hz, 1H), 6.74 (M, 4H).

reactant | Ethyl 2-(4-acetoxyphenoxy)propionate | 19.9 mmol, 5.01 g | C(C)(=O)OC1=CC=C(OC(C(=O)OCC)C)C=C1 | C13H16O5
catalyst | HCl | 2 drops | Cl | ClH
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | ethyl 2-(4-hydroxyphenoxy)propionate | 3.8 g, yield 93% | OC1=CC=C(OC(C(=O)OCC)C)C=C1 | C11H14O4
